US08106043B2
tert-Butyl 2-hydroxyethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate:
To a stirred solution of tert-butyl 2-hydroxyethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate (620 mg, 1.560 mmol) in tetrahydrofuran (5 mL) was added borane-tetrahydrofuran complex (1 M in tetrahydrofuran; 4.68 mL, 4.68 mmol), dropwise to avoid excessive bubbling. The mixture was then stirred at room temperature for 2 hours. The mixture was then quenched via the slow, dropwise addition of MeOH. The quenched reaction was then diluted with ethyl acetate and washed with saturated sodium carbonate (3×). The organic phase was dried, filtered, and concentrated giving a red oil (595 mg, 99%). 1H NMR (DMSO-d6) δ 7.59-7.44 (m, 1H), 7.38-7.32 (m, 1H), 7.22-7.13 (m, 1H), 4.74 (t, J=5.1 Hz, 1H), 3.69-3.62 (m, 2H), 3.61-3.39 (m, 6H), 3.29-3.17 (m, 2H), 3.15-3.04 (m, 2H), 1.31, 1.24 (2s, 9H); ESI-MS (m/z, %): 406 (M+Na, 55), 328 (40), 284 (100).

reactant | tert-butyl 2-hydroxyethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate | 1.560 mmol, 620 mg | OCCN(C(OC(C)(C)C)=O)CC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C17H23N3O6S
reactant | borane tetrahydrofuran | 4.68 mmol, 1 M, 4.68 mL | B.O1CCCC1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-hydroxyethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 595 mg, 99% | OCCN(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C17H25N3O5S
